US06060483
6-(2-Hydroxy)ethyl-8β-hydroxymethyl-10α-methoxy-ergoline
To a stirred solution of 3 g of 8β-hydroxymethyl-10α-methoxy-ergoline, 3 g of potassium carbonate in 25 ml of dimethylformamide was added 1.3 g of 2-bromoethanol.

reactant | 8β-hydroxymethyl-10α-methoxy-ergoline | 3 g | OC[C@H]1CN[C@@H]2CC3=CNC4=CC=CC([C@]2(C1)OC)=C34 | C16H20N2O2
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | 1.3 g | BrCCO | C2H5BrO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-(2-Hydroxy)ethyl-8β-hydroxymethyl-10α-methoxy-ergoline | OCCN1C[C@@H](C[C@@]2(C=3C=CC=C4NC=C(C[C@@H]12)C34)OC)CO | C18H24N2O3
